US04185024
A process for the manufacture of anthraquinones in which o-benzyl-toluene is first oxidized with 25 to 50 weight-% nitric acid at atmospheric pressure and moderate temperatures, and then further oxidized with a more dilute nitric acid at elevated temperatures and pressures to yield crude o-benzoyl-benzoic acid. The crude product is then esterified with methanol, the methyl ester distilled and, when necessary, recrystallized, and heated with concentrated sulfuric acid to yield anthraquinone in high yield and of a high degree of purity.

reactant | o-benzyl-toluene | C(C1=CC=CC=C1)C1=C(C=CC=C1)C | C14H14
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | methanol | CO | CH4O
product | anthraquinone | C1=CC=CC=2C(C3=CC=CC=C3C(C12)=O)=O | C14H8O2
